US04698094
2-chloro-4,6-bis-ethylamino-1,3,5-triazine;
2-chloro-4-ethylamino-6-isopropylamino-1,3,5-triazine; 2-methylthio-4,6-bis-ethylamino-1,3,5,-triazine; etc.

reactant | 2-chloro-4-ethylamino-6-isopropylamino-1,3,5-triazine | ClC1=NC(=NC(=N1)NCC)NC(C)C | C8H14ClN5
reactant | 2-methylthio-4,6-bis-ethylamino-1,3,5,-triazine | CSC1=NC(=NC(=N1)NCC)NCC | C8H15N5S
product | 2-chloro-4,6-bis-ethylamino-1,3,5-triazine | ClC1=NC(=NC(=N1)NCC)NCC | C7H12ClN5
